US09332754B2
Production of 5-chloropentyl-[4-methyl-3-(2,2,2-trifluoroethylthio)phenyl]ether (present compound No. A-0279)
To 100 ml of acetonitrile were added 2.5 g (11 mmol) of 4-methyl-3-(2,2,2-trifluoroethylthio)phenol, 2.5 g (13 mmol) of 1-bromo-5-chloropentane, 1.9 g (14 mmol) of potassium carbonate and 0.35 g (1.1 mmol) of tetra-n-butylammonium bromide. The mixture was refluxed for 5 hours under heating and then allowed to cool to room temperature. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: a mixed solvent of n-hexane:ethyl acetate=10:1), to obtain 2.9 g (yield: 79%) of an intended product.

reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
reactant | 4-methyl-3-(2,2,2-trifluoroethylthio)phenol | 11 mmol, 2.5 g | CC1=C(C=C(C=C1)O)SCC(F)(F)F | C9H9F3OS
reactant | 1-bromo-5-chloropentane | 13 mmol, 2.5 g | BrCCCCCCl | C5H10BrCl
reactant | potassium carbonate | 14 mmol, 1.9 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetra-n-butylammonium bromide | 1.1 mmol, 0.35 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 5-chloropentyl-[4-methyl-3-(2,2,2-trifluoroethylthio)phenyl]ether | 2.9 g, yield: 79% | ClCCCCCOC1=CC(=C(C=C1)C)SCC(F)(F)F | C14H18ClF3OS
